US08791123B2
Step A: Preparation of 2-(2-chloroethoxy)isoindoline-1,3-dione
A 1 L round-bottomed flask was charged 2-hydroxyisoindoline-1,3-dione (16.6 g, 98.71 mmol), followed by DMF (100 mL), then 1-bromo-2-chloroethane (25.2 mL, 296.1 mmol), and then triethylamine (42.1 mL, 296.1 mmol). After stirring at ambient temperature overnight, the reaction mixture was filtered (GF/F) and rinsed with DMF. The filtrate (250 mL) was poured into ice-water (2 L) while stirring, and the resulting precipitate was filtered, rinsed with water, and dried, yielding the crude product as a white solid (21 g). The crude product was triturated with heptane (3×400 mL), filtered and air-dried, giving the product as white solid (17.6 g, 79%).

reactant | 2-hydroxyisoindoline-1,3-dione | 98.71 mmol, 16.6 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | 1-bromo-2-chloroethane | 296.1 mmol, 25.2 mL | BrCCCl | C2H4BrCl
reactant | triethylamine | 296.1 mmol, 42.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(2-chloroethoxy)isoindoline-1,3-dione | 17.6 g, 79% | ClCCON1C(C2=CC=CC=C2C1=O)=O | C10H8ClNO3
